US07115741B2
4-(4-tert-Butoxycarbonyl-piperazin-1-yl)-6-ethyl-thieno[2,3-d]pyrimidine-2-carboxylic acid
4-(4-tert-Butoxycarbonyl-piperazin-1-yl)-6-ethyl-thieno[2,3-d]pyrimidine-2-carboxylic acid ethyl ester (118.9 mg) was dissolved in methanol (0.42 mL) and NaOH (2 M in water, 0.42 mL) was added. The reaction was stirred at room temperature for 3 hours after which, it was neutralized with DOWEX acid ion exchange resin. The mixture was filtered and the filtrate was concentrated to dryness giving the desired product. Yield=100%, ES-MS: (M+H)+ 393.

reactant | 4-(4-tert-Butoxycarbonyl-piperazin-1-yl)-6-ethyl-thieno[2,3-d]pyrimidine-2-carboxylic acid ethyl ester | 118.9 mg | C(C)OC(=O)C=1N=C(C2=C(N1)SC(=C2)CC)N2CCN(CC2)C(=O)OC(C)(C)C | C20H28N4O4S
reactant | NaOH | 2 M, 0.42 mL | [OH-].[Na+]
solvent | methanol | 0.42 mL | CO | CH4O
product | 4-(4-tert-Butoxycarbonyl-piperazin-1-yl)-6-ethyl-thieno[2,3-d]pyrimidine-2-carboxylic acid | Yield=100% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C2=C(N=C(N1)C(=O)O)SC(=C2)CC | C18H24N4O4S
